US07786132B2
(iv) 2-(5-Bromo-2-chloropyrimidin-4-yl)thieno[2,3-c]pyridine
Diisopropylamine (1.02 mL, 7.27 mmol) was added to a flask containing anhydrous THF (10 mL) and the mixture, while kept under an atmosphere of nitrogen, was cooled to −78° C. n-BuLi (2.5 M in hexanes, 2.9 mL, 7.27 mmol) was added dropwise to the mixture, which was stirred for 30 min. Thieno[2,3-c]pyridine (0.82 g, 6.06 mmol) dissolved in anhydrous THF (10 mL) was added to the reaction mixture dropwise. The reaction was stirred at −78° C. for 10 min and then at −40° C. for 20 min. 5-Bromo-2-chloropyrimidine, dissolved in anhydrous THF (5 mL) was added to the reaction slowly. The mixture was allowed to stir at −40° C. for 2 h and then was quenched with a 1:1 mixture of acetic acid/methanol (5 mL). The mixture was stirred for 15 min and a solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.72 g, 6.66 mmol) in 10 mL of THF was added. The reaction was stirred for an additional 15 min and then the cooling bath was removed. The mixture was stirred for 1 h and then cooled to 0° C. with an ice bath. 5 N sodium hydroxide (50 mL) was added to the reaction mixture, which was stirred for an additional 5 min. The reaction was then diluted with ethyl acetate (30 mL) and water (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by column chromatography using a gradient of 5 to 40% ethyl acetate in hexanes to obtain a light brown solid. Yield=0.5 g. MS (M+H)+ 326/328.

reactant | Diisopropylamine | 7.27 mmol, 1.02 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 7.27 mmol, 2.5 M, 2.9 mL | [Li]CCCC
reactant | Thieno[2,3-c]pyridine | 6.06 mmol, 0.82 g | S1C=CC=2C1=CN=CC2 | C7H5NS
reactant | 5-Bromo-2-chloropyrimidine | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 6.66 mmol, 1.72 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(5-Bromo-2-chloropyrimidin-4-yl)thieno[2,3-c]pyridine | BrC=1C(=NC(=NC1)Cl)C1=CC=2C(=CN=CC2)S1 | C11H5BrClN3S
